US05338726
N-(4-Methylpiperazin-1-yl-carbonyl)-Cyclohexylalanine
To Cyclohexylalanine methyl ester hydrochloride salt (1.00 g, 4.51 mmol) suspended in toluene (25 mL) was added bis (trichloromethyl) carbonate (triphosgene) (669.2 mg, 0.5 equiv). The reaction mixture was warmed at 100° C. for 3 hours and then concentrated under reduced pressure to afford a semi-solid residue. To this residue dissolved in methylene chloride (15 mL) and cooled to 0° C. was added N-methylpiperazine (0.50 mL, 1.0 equiv). After stirring for 1 hour, the reaction mixture was concentrated at reduced pressure to afford a semi-solid residue. Flash chromatography on silica gel eluting with 4% methanol in chloroform afforded the title product (629 mg, 45%).

reactant | Cyclohexylalanine methyl ester hydrochloride salt | 4.51 mmol, 1.00 g | Cl.COC([C@@H](NC1CCCCC1)C)=O
reactant | bis (trichloromethyl) carbonate | 669.2 mg, 0.5 equiv | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | N-methylpiperazine | 0.50 mL, 1.0 equiv | CN1CCNCC1 | C5H12N2
reactant | methanol | CO | CH4O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Methylpiperazin-1-yl-carbonyl)-Cyclohexylalanine | 629 mg, 45% | CN1CCN(CC1)C(=O)N([C@@H](C)C(=O)O)C1CCCCC1 | C15H27N3O3
